US09212190B2
To a solution of tert-butyl N-(4-[[(13S)-13-[2-(methanesulfonyloxy)ethyl]-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraen-3-yl]oxy]cyclohexyl)carbamate (525 mg, 1.00 mmol, 1.00 equiv) in DMSO (20 mL) was added NaCN (294 mg, 6.00 mmol, 6.00 equiv) and the resulting solution was stirred for 2 h at 70° C. under nitrogen. After cooling, the mixture was diluted with DCM (80 mL), washed with brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:3) to yield 380 mg (83%) of tert-butyl N-(4-[[(13S)-13-(2-cyanoethyl)-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraen-3-yl]oxy]cyclohexyl)carbamate as a white solid.

reactant | tert-butyl N-(4-[[(13S)-13-[2-(methanesulfonyloxy)ethyl]-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraen-3-yl]oxy]cyclohexyl)carbamate | 1.00 mmol, 525 mg, 1.00 equiv | CS(=O)(=O)OCC[C@@H]1CCCC=2SC=3N=CN=C(C3C12)OC1CCC(CC1)NC(OC(C)(C)C)=O | C24H35N3O6S2
reactant | NaCN | 6.00 mmol, 294 mg, 6.00 equiv | [C-]#N.[Na+]
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
solvent | DCM | 80 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl N-(4-[[(13S)-13-(2-cyanoethyl)-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraen-3-yl]oxy]cyclohexyl)carbamate | 380 mg, 83% | C(#N)CC[C@@H]1CCCC=2SC=3N=CN=C(C3C12)OC1CCC(CC1)NC(OC(C)(C)C)=O | C24H32N4O3S
